US06329381B1
6-Amino-9-benzyl-8-bromo-2-(4-hydroxybutoxy)purine
6-Amino-9-benzyl-2-(4-hydroxybutoxy)purine (200 mg, 0.638 mmol) and bromine (1.0 ml) were dissolved in methylene chloride (50 ml). The solution was stirred at room temperature for 2 hours. Aqueous sodium thiosulfate was added to the reaction mixture. The organic layer was separated, dried on sodium sulfate and the solvent was removed. The residue was purified with silica gel chromatography (2% methanol/chloroform) to give the subject compound (213 mg, yield 85%).

reactant | 6-Amino-9-benzyl-2-(4-hydroxybutoxy)purine | 0.638 mmol, 200 mg | NC1=C2N=CN(C2=NC(=N1)OCCCCO)CC1=CC=CC=C1 | C16H19N5O2
reactant | bromine | 1.0 ml | BrBr | Br2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 6-Amino-9-benzyl-8-bromo-2-(4-hydroxybutoxy)purine | 213 mg, yield 85% | NC1=C2N=C(N(C2=NC(=N1)OCCCCO)CC1=CC=CC=C1)Br | C16H18BrN5O2
